US08372813B2
To a stirring solution of 5-bromo-pentene (6.0 g, 0.040 mol) in DMF (30 mL) was added K2CO3 (4.7 g, 0.034 mol) and potassium phthalimide (6.21 g, 0.033 mmol) and the reaction mixture was heated at 100° C. for 1 hr. The reaction mixture was cooled to room temperature, and water (50 mL) was added. The aqueous layer was then extracted with ethyl acetate (2×50 mL), and the combined organic layers were washed with 5% aq. NaHCO3 (2×20 mL), brine (30 mL) and dried over Na2SO4. Filtration and solvent evaporation gave an oil, which was purified by flash chromatography (silica gel/hexanes:ethyl acetate 0-35%) to yield the desired 2-(pent-4-enyl)-isoindoline-1,3-dione as a solid (6.36 g, 0.029 mmol, 72.5% yield): MS m/e [M+H]+ calcd 216.1, found 216.1; NMR (250 MHz, DMSO-d6) δ 7.79-7.95 (m, 4 H), 5.70-5.91 (m, 1 H), 4.90-5.11 (m, 2 H), 3.58 (t, 2 H), 1.98-2.10 (m, 2 H), 1.59-1.78 (m, 2 H).

reactant | 5-bromo-pentene | 0.040 mol, 6.0 g | BrCCCC=C | C5H9Br
reactant | K2CO3 | 0.034 mol, 4.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | potassium phthalimide | 0.033 mmol, 6.21 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | 50 mL | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-(pent-4-enyl)-isoindoline-1,3-dione | 0.029 mmol, 6.36 g, 72.5% yield | C(CCC=C)N1C(C2=CC=CC=C2C1=O)=O | C13H13NO2
